US09056874B2
2-(3,5,7-Trimethyl-1H-indole-4-carbonyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of 2-(3-formyl-5,7-dimethyl-1H-indole-4-carbonyl)-1H-benzo[d]imidazole-5-carbonitrile (20 mg, 0.058 mmol) in MeOH (2 mL) was added NaBH4 (11.05 mg, 0.292 mmol), and then the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with EtOAc/2,2,2-trifluoroethanol (c.a. 9/1). The organic phase was successively washed by H2O and brine, dried over Na2SO4, and filtered. Concentration of the filtrate gave the title compound, which was used in the next reaction without any further purification. MS (ESI+) m/z 329.1 (M+H).

reactant | 2-(3-formyl-5,7-dimethyl-1H-indole-4-carbonyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.058 mmol, 20 mg | C(=O)C1=CNC=2C(=CC(=C(C12)C(=O)C1=NC2=C(N1)C=CC(=C2)C#N)C)C | C20H14N4O2
reactant | NaBH4 | 0.292 mmol, 11.05 mg | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | EtOAc 2,2,2-trifluoroethanol | CCOC(=O)C.FC(CO)(F)F
product | 2-(3,5,7-Trimethyl-1H-indole-4-carbonyl)-1H-benzo[d]imidazole-5-carbonitrile | CC1=CNC=2C(=CC(=C(C12)C(=O)C1=NC2=C(N1)C=CC(=C2)C#N)C)C | C20H16N4O
